US07402606B2
A solution of 120 mg (0.22 mmol) of benzyl 3-[({[(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentyl]amino}carbonyl)oxy]-4,4-dimethyl-2-oxo-1-pyrrolidinecarboxylate in 5 mL of tetrahydrofuran was stirred in the presence of 15 mg of 10% Pd/C under a hydrogen atmosphere (50 psi) for 18 h. The catalyst was filtered off over celite and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with 3:2 acetone:dichloromethane to afford 60 mg (66%) of 4,4-dimethyl-2-oxo-3-pyrrolidinyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate. ES-LCMS m/z 420 (M+H).

reactant | benzyl 3-[({[(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentyl]amino}carbonyl)oxy]-4,4-dimethyl-2-oxo-1-pyrrolidinecarboxylate | 0.22 mmol, 120 mg | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCC)NC(=O)OC1C(N(CC1(C)C)C(=O)OCC1=CC=CC=C1)=O | C30H39N3O7
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 4,4-dimethyl-2-oxo-3-pyrrolidinyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate | 60 mg, 66% | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCC)NC(OC1C(NCC1(C)C)=O)=O | C22H33N3O5
